US04740228
A solution of 9.75 g (0.05 mole) of 2-cyano-2-methyl-2-phenylacetyl chloride in 20 ml of acetone is cooled to 5° C., and a mixture of 5 g (0.05 mole) of cyclohexylamine, 5.2 g of triethyl amine and 10 ml of acetone is added to the solution under maintaining the temperature of the mixture below 10° C. The reaction mixture is poured into ice water, the separated solid is filtered off, and dried in vacuo. 12.12 g of N-cyclohexyl-2-cyano-2-methyl-2-phenylacetic acid amide are obtained; m.p.: 76°-78° C.

reactant | 2-cyano-2-methyl-2-phenylacetyl chloride | 0.05 mole, 9.75 g | C(#N)C(C(=O)Cl)(C1=CC=CC=C1)C | C10H8ClNO
reactant | cyclohexylamine | 0.05 mole, 5 g | C1(CCCCC1)N | C6H13N
reactant | triethyl amine | 5.2 g | C(C)N(CC)CC | C6H15N
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | N-cyclohexyl-2-cyano-2-methyl-2-phenylacetic acid amide | 12.12 g | C1(CCCCC1)NC(C(C1=CC=CC=C1)(C)C#N)=O | C16H20N2O
